US04560750
tert-Butyl 7β-(2',2',3'-trichlorobutylideneamino)-3-methyl-3-cephem-4-carboxylate
To a solution of tert-butyl 7β-amino-3-methyl-3-cephem-4-carboxylate (1.35 g, 5.00 mmol) in methylene chloride (30 ml) was added dropwise under ice-cooling butyl chloral (2,2,3-trichlorobutanal) (0.63 ml, 5.0 mmol). The reaction mixture was stirred at room temperature for 10 minutes, was allowed to cool to -20° C., N,N-dimethylaniline (3 ml) was added thereto and then thionyl chloride (0.5 ml) was added dropwise. After stirring under ice-cooling for 1.5 hours, the reaction mixture was poured into ice-water (40 ml), extracted with methylene chloride (30 ml, twice). The organic layer was washed successively with an ice-cooled saturated aqueous solution of potassium hydrogen sulfate (30 ml, twice), ice-water (30 ml), an ice-cooled saturated aqueous solution of sodium hydrogen carbonate (30 ml) and ice-water (30 ml) and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 2.13 g (100%) of the title compound as a pale yellow foamy substance.

reactant | tert-butyl 7β-amino-3-methyl-3-cephem-4-carboxylate | 5.00 mmol, 1.35 g | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O | C12H18N2O3S
reactant | butyl chloral | 5.0 mmol, 0.63 ml | C(CCC)C(=O)C(Cl)(Cl)Cl | C6H9Cl3O
reactant | N,N-dimethylaniline | 3 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 7β-(2',2',3'-trichlorobutylideneamino)-3-methyl-3-cephem-4-carboxylate | 2.13 g, 100% | ClC(C=N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O)(C(C)Cl)Cl | C16H21Cl3N2O3S
